US05189138
2,3,9,10-Tetramethyl-12,14-diphenyl-12,14-bis (heptafluoropropyl)-12H,14H-5,7-dioxapentacene
A mixture of 159 g (0.5 mole) 1,3-bis(3,4-dimethylphenoxy)benzene, 274 g (1.0 mole) phenyl heptafluoropropyl ketone, and 280 g (14 moles) HF was heated in an autoclave for 8 hours at 140° C. After cooling, and venting off excess HF, the autoclave contents were transferred to a 1-gallon polyethylene jar, half filled with ice water, and containing 500 ml of 50% sodium hydroxide. The autoclave was rinsed out with methylene chloride, and the washings were added to the jar. The product was extracted with methylene chloride, the extracts were filtered through a layer of alumina, and the solvent was stripped off at atmospheric pressure yielding 312 g of a taffy-like residue, which was very soluble in acetone. The residue was extracted with several 500 ml portions of boiling methanol, and then was stirred with isopropyl alcohol, producing a solid in 21.3 g (5.1 % yield) with a sharp IR spectrum, devoid of OH bands, and melting in the 198-220° C. range, and after recrystallization from heptane at 237-238° C. NMR of the product melting over the wide range showed presence of cis- and trans- isomers: aromatic protons as multiplets 7.05-7.25, 6.85-7.0, broad s 6.66, two broad singlets at 6.58 and 6.50, and methyl singlets at 2.20 and 2.02 ppm in 6:7:2:1(total of the 6.58 and 6.50 peaks): 6:6 ratio. The recrystallized material was a single isomer, by NMR m 7.1, m 7.0, s 6.94, s 6.86, broad s 6.65, broad s 6.47, s 2.23 and s 2.04 ppm in 4:6:2:1:2:1:6:6 ratio. Analysis: calc. for C42H28F14O2 : C 60.7; H 3.37, F 32.0; F 32.0; found C 70.0; H 3.61, F 30.1%.

reactant | 1,3-bis(3,4-dimethylphenoxy)benzene | 0.5 mole, 159 g | CC=1C=C(OC2=CC(=CC=C2)OC2=CC(=C(C=C2)C)C)C=CC1C | C22H22O2
reactant | phenyl heptafluoropropyl ketone | 1.0 mole, 274 g | FC(C(F)(F)C(=O)C1=CC=CC=C1)(C(F)(F)F)F | C10H5F7O
reactant | polyethylene | 1-gallon | C(C[*:2])[*:1]
solvent | sodium hydroxide | 500 ml | [OH-].[Na+]
product | 2,3,9,10-Tetramethyl-12,14-diphenyl-12,14-bis (heptafluoropropyl)-12H,14H-5,7-dioxapentacene | 312 g, 5.1 % yield | CC1=CC=2C(C3=CC=4C(C5=CC(=C(C=C5OC4C=C3OC2C=C1C)C)C)(C(C(C(F)(F)F)(F)F)(F)F)C1=CC=CC=C1)(C(C(C(F)(F)F)(F)F)(F)F)C1=CC=CC=C1 | C42H28F14O2
